US07795315B2
(E)-[2-(3-{4-[[Formyl-(2-morpholin-4-yl-ethyl)-amino]-(4-trifluoromethyl-phenylcarbamoyl)-methyl]-phenyl}-acryloylamino)-phenyl]-carbamic acid tert-butyl ester
A solution of (E)-{2-[3-(4-formyl-phenyl)-acryloylamino]-phenyl}-carbamic acid tert-butyl ester (1.10 g, 3.00 mmol), 4-(trifluoromethyl)-phenyl isocyanide (520 mg, 3.00 mmol), 2-morpholinoethylamine (391 mg, 3.00 mmol) and formic acid solution in methanol (2.0 mL, 1.5M) in methanol (1.0 mL) was stirred at 80 degrees Celcius for 4 hours. After solvent removal, the crude product was directly purified by flash column chromatography over silica gel (dichloromethane/methanol, 100:1 to 10:1, v:v) to yield the desired product (730 mg, 35%). MS: calc'd 696 (MH+) exp 696 (MH+).

reactant | (E)-{2-[3-(4-formyl-phenyl)-acryloylamino]-phenyl}-carbamic acid tert-butyl ester | 3.00 mmol, 1.10 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(\C=C\C1=CC=C(C=C1)C=O)=O)=O | C21H22N2O4
reactant | 4-(trifluoromethyl)-phenyl isocyanide | 3.00 mmol, 520 mg | FC(C1=CC=C(C=C1)[N+]#[C-])(F)F | C8H4F3N
reactant | 2-morpholinoethylamine | 3.00 mmol, 391 mg | O1CCN(CC1)CCN | C6H14N2O
reactant | formic acid | C(=O)O | CH2O2
reactant | methanol | 1.5M, 2.0 mL | CO | CH4O
reactant | methanol | 1.0 mL | CO | CH4O
product | (E)-[2-(3-{4-[[Formyl-(2-morpholin-4-yl-ethyl)-amino]-(4-trifluoromethyl-phenylcarbamoyl)-methyl]-phenyl}-acryloylamino)-phenyl]-carbamic acid tert-butyl ester | 730 mg, 35% | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(\C=C\C1=CC=C(C=C1)C(C(NC1=CC=C(C=C1)C(F)(F)F)=O)N(CCN1CCOCC1)C=O)=O)=O | C36H40F3N5O6
